US07737153B2
N-[3-Fluoro-4-({1-[(4-methylphenyl)sulfonyl]-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-yl}oxy)phenyl]-4-methylphenylsulfonamide
50 mg (0.09 mmol) of N-[3-fluoro-4-({1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}oxy)phenyl]-4-methylphenylsulfonamide (from example XLIV) are dissolved in 30 ml of methanol, and 48.2 mg (0.05 mmol) of 10% palladium on activated carbon are added. The mixture is hydrogenated overnight under a hydrogen pressure of 3.5 bar. The palladium is then filtered off with suction through kieselguhr and washed with ethanol, and the filtrate is concentrated.

reactant | N-[3-fluoro-4-({1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}oxy)phenyl]-4-methylphenylsulfonamide | 0.09 mmol, 50 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NS(=O)(=O)C2=CC=C(C=C2)C | C27H22FN3O5S2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on activated carbon | 0.05 mmol, 48.2 mg | [Pd] | Pd
product | N-[3-Fluoro-4-({1-[(4-methylphenyl)sulfonyl]-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-yl}oxy)phenyl]-4-methylphenylsulfonamide | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(CC2)S(=O)(=O)C2=CC=C(C=C2)C)NS(=O)(=O)C2=CC=C(C=C2)C | C27H24FN3O5S2
